US06846832B2
i) 6-Hydroxy-2,3-dihydro-isoindol-1-one
A mixture of 6-methoxy-2,3-dihydro-isoindol-1-one (167 mg, 1.0 mmol) and boron tribromide (1 M in CH2Cl2, 3.6 mL, 3.6 mmol) in CH2Cl2 (8 mL) at −78° C. was stirred for 18 h at RT. The mixture was then cooled to −78° C. and MeOH (20 mL) was added. After 2 h at −78° C. the mixture was evaporated and the residue purified by chromatography (SiO2, CH2Cl2:2N NH3-MeOH 9:1) to afford the title product (147 mg, 100%) as a white solid. MS m/e=148.0 (M−H+).

reactant | 6-methoxy-2,3-dihydro-isoindol-1-one | 1.0 mmol, 167 mg | COC1=CC=C2CNC(C2=C1)=O | C9H9NO2
reactant | boron tribromide | 3.6 mmol, 1 M, 3.6 mL | B(Br)(Br)Br | BBr3
reactant | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-2,3-dihydro-isoindol-1-one | 147 mg, 100% | OC1=CC=C2CNC(C2=C1)=O | C8H7NO2
